US07008957B2
9b) (S)-2-tert-Butoxycarbonylamino-2-hydroxymethylpent-4-enoic acid
450 ml of ammonia were condensed at −78° C. 4.4 g of sodium were added in 4 portions at an interval of 10 min each time, and the mixture was stirred for 20 min. At −60° C., a solution of 9.8 g of tert-butyl (3S,5S,6R)-3-allyl-3-benzyloxymethyl-2-oxo-5,6-diphenylmorpholine-4-carboxylate and 11.2 ml of ethanol in 150 ml of THF was added dropwise thereto. The mixture was stirred at −45° C. for 1.5 h, and the reaction was stopped by adding solid ammonium chloride until the blue color disappeared. The ammonia was then allowed to evaporate off, and 400 ml of water were added to the residue. The THF was removed in vacuo. The aqueous was adjusted to pH 2 with 1 N HCl and extracted 3 times with 200 ml of ethyl acetate each time. The combined organic phases were dried with MgSO4. The solvents were removed in vacuo and the residue was purified by chromatography on silica gel.

reactant | ammonia | 450 ml | N | H3N
reactant | sodium | 4.4 g | [Na] | Na
reactant | tert-butyl (3S,5S,6R)-3-allyl-3-benzyloxymethyl-2-oxo-5,6-diphenylmorpholine-4-carboxylate | 9.8 g | C(C=C)[C@]1(N([C@H]([C@H](OC1=O)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)COCC1=CC=CC=C1 | C32H35NO5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | ethanol | 11.2 ml | C(C)O | C2H6O
product | (S)-2-tert-Butoxycarbonylamino-2-hydroxymethylpent-4-enoic acid | C(C)(C)(C)OC(=O)N[C@@](C(=O)O)(CC=C)CO | C11H19NO5
